US04455422
2.8 Grams of 6-(1-hydroxy-4-chlorobutyl)-3,4-dihydrocarbostyril and 1.8 g of sodium iodide were mixed in 60 ml of dimethylformamide and the mixture was stirred at a room temperature for 7 hours. To the reaction mixture were added 2 g of triethylamine and 2.5 g of 4-phenylpiperazine and stirred at a room temperature for 24 hours. The reaction mixture was poured into 200 ml of 1%-sodium hydrogencarbonate aqueous solution and was extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation under a reduced pressure. The obtained residue was recrystallized from isopropanol to obtain 2.5 g of 6-[1-hydroxy-4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril.

reactant | 6-(1-hydroxy-4-chlorobutyl)-3,4-dihydrocarbostyril | OC(CCCCl)C=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
reactant | sodium iodide | 1.8 g | [I-].[Na+]
reactant | 4-phenylpiperazine | 2.5 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
product | 6-[1-hydroxy-4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril | 2.5 g | OC(CCCN1CCN(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C23H29N3O2
